US07384934B2
(S)-2-(4-Methoxybutyl)-piperazine
Into a stirred, room temperature solution of (S)-2-(4-methoxybutyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester (0.198 g, 0.53 mmol) in CH2Cl2 (2.6 mL), add TFA (2.6 mL) and stir for 2 h. Concentrate the mixture under reduced pressure, dilute with H2O and load onto an SCX column (10 g). Wash the resin with H2O (3×100 mL), MeOH (3×100 mL) and elute the product with 2 M NH3 in MeOH (3×100 mL). Concentrate the purified fractions under reduced pressure and azeotrope the residue with CH2Cl2/hexanes (1:2). Place the residue under vacuum to give the title compound: orange crystals (0.093 g), mass spectrum (m/e):173.4 (M+H).

reactant | (S)-2-(4-methoxybutyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 0.53 mmol, 0.198 g | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)OC(C)(C)C)CCCCOC | C19H36N2O5
reactant | TFA | 2.6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2.6 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(4-Methoxybutyl)-piperazine | COCCCC[C@@H]1NCCNC1 | C9H20N2O
